US08222246B2
d) 6-[3-(4-Fluoro-phenyl)-5-formyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester
A mixture of 6-[3-(4-fluoro-phenyl)-5-((E)-styryl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (3.88 g, 9.01 mmol), osmium(VIII) oxide (57.3 mg, 0.23 mmol), sodium metaperiodate (7.71 g, 36.1 mmol), benzyltriethylammonium chloride (838 mg, 3.61 mmol) in dioxane (60 mL) and water (20 mL) was heated for 15 min at 120° C. in a microwave. Water was then added to the reaction mixture and the resulting mixture extracted with ethyl acetate. The organic extract was then evaporated and the residue purified by chromatography (silica, ethyl acetate:heptane=1:4 to 2:3) to afford the title compound (2.51 g, 78%) as off white oil. MS: m/e=357.2 [M+H]+.

reactant | 6-[3-(4-fluoro-phenyl)-5-((E)-styryl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 9.01 mmol, 3.88 g | COC(C1=CN=C(C=C1)OCC=1C(=NOC1\C=C\C1=CC=CC=C1)C1=CC=C(C=C1)F)=O | C25H19FN2O4
reactant | sodium metaperiodate | 36.1 mmol, 7.71 g | I(=O)(=O)(=O)[O-].[Na+]
catalyst | benzyltriethylammonium chloride | 3.61 mmol, 838 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
solvent | water | 20 mL | O | H2O
catalyst | osmium(VIII) oxide | 0.23 mmol, 57.3 mg | [Os](=O)(=O)(=O)=O
product | 6-[3-(4-Fluoro-phenyl)-5-formyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 2.51 g, 78% | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C=O)C1=CC=C(C=C1)F)=O | C18H13FN2O5
